US06831094B2
Preparation of t-Butyl (2S)-2-[(1H-indol-4-yloxy)methyl]-1-pyrrolidinecarboxylate
A solution of 4-hydroxyindole (1.33 g, 10.0 mmol), (S)-(−)-1-t-butoxycarbonyl)-2-pyrrolidine methanol (4.02 g, 20.0 mmol) and triphenylphosphine (5.3 g, 20.0 mmol) in THF is treated with diethyl azodicarboxylate (3.2 ML, 20.0 mmol) under nitrogen at room temperature, stirred for 2 h at room temperature and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, EtOAc/hexane: 20/80) to give the title compound as a white solid, 1.5 g, mp 40-41° C., identified by NMR and mass spectral analyses.

reactant | 4-hydroxyindole | 10.0 mmol, 1.33 g | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | 2-pyrrolidine methanol | 20.0 mmol, 4.02 g | N1C(CCC1)CO | C5H11NO
reactant | triphenylphosphine | 20.0 mmol, 5.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | C1CCOC1 | C4H8O
product | t-Butyl (2S)-2-[(1H-indol-4-yloxy)methyl]-1-pyrrolidinecarboxylate | N1C=CC2=C(C=CC=C12)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C18H24N2O3
